Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ORTHOPAEDICS
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
right quad tendon rupture
 
Major Surgical or Invasive Procedure:
right quadriceps tendon repair

 
History of Present Illness:
___ is a ___ gentleman who
sustained a right quadriceps tendon rupture. There is a
partial rupture tear that involved over 90% of the tendon. He
also has a medial meniscal tear.
 
Past Medical History:
HTN, GERD, obesity
 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
Upon discharge:
AVSS
NAD
AAOx3
CTAB
RRR, S1S2
soft, NTND
RLE: incision is c/d/i, no discharge. All compartments are soft. 
NVI in ___. SIlT. ___ brace in place locked in 
extension.
 
Pertinent Results:
___ 03:33PM BLOOD WBC-7.6 RBC-4.63 Hgb-14.6 Hct-41.3 MCV-89 
MCH-31.5 MCHC-35.3* RDW-13.7 Plt ___
___ 03:33PM BLOOD Glucose-104 UreaN-15 Creat-1.0 Na-137 
K-4.4 Cl-104 HCO3-20* AnGap-17
 
Brief Hospital Course:
Mr. ___ arrived for his elective surgery and was taken to the 
OR. He tolerated his procedure well and recovered in the PACU 
without events.

His pain was well controlled with IV and then PO pain meds. He 
was eating a regular diet post-op.

He was fitted for ___ brace and it was locked in 
extension. He was seen and cleared by ___ for home. He ambulated 
with crutches without problems.

His dressing was removed on POD 2 and his incision was c/d/i.

He is being discharged today in stable condition with his 
staples still in place.
 
Medications on Admission:
None
 
Discharge Medications:
1. Oxycodone 5 mg Tablet Sig: ___ Tablets PO Q4-6H () as needed.
Disp:*90 Tablet(s)* Refills:*0*
2. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*0*
3. Enoxaparin 30 mg/0.3 mL Syringe Sig: One (1) inj Subcutaneous 
Q12H (every 12 hours).
Disp:*28 inj* Refills:*1*
4. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours) as needed.  
5. Senna 8.6 mg Tablet Sig: ___ Tablets PO HS (at bedtime).
Disp:*60 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
right quadriceps tendon rupture

 
Discharge Condition:
Stable. Staples in place. ___ knee brace in place.

 
Discharge Instructions:
Keep your knee locked in extension (straight) at all times and 
wear your knee brace.

Please call your doctor or return to the ER for any of the 
following:
* You experience new chest pain, pressure, squeezing or 
tightness.
* New or worsening cough or wheezing.
* If you are vomiting and cannot keep in fluids or your 
medications.
* You are getting dehydrated due to continued vomiting, 
diarrhea or other reasons. Signs of dehydration include dry 
mouth, rapid heartbeat or feeling dizzy or faint when standing.
* You see blood or dark/black material when you vomit or have a 
bowel movement.
* Your pain is not improving within ___ hours or not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or is changing location or moving to your chest or 

back.
* You have shaking chills, or a fever greater than 101.5 (F) 
degrees or 38(C) degrees.
* Any serious change in your symptoms, or any new symptoms that 
concern you.
Other:
*Avoid lifting objects > 5lbs until your follow-up appointment 
with the surgeon.
*Avoid driving or operating heavy machinery while taking pain 
medications.
* Please resume all regular home medications and take any new 
meds 
as ordered. 
* Continue to ambulate several times per day.
 
Followup Instructions:
___